US04853393
A mixture of 11 g of 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid methyl ester 2-chloroethyl ester, 6.4 g of 4-(2-thenoyl)-piperidine and 8.8 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene is stirred under argon for 1 hour in a bath at 150°. After cooling, the melt is dissolved in 100 ml of ethyl acetate and the solution is washed three times with 1N hydrochloric acid. The aqueous-acidic solution is adjusted to pH 9-10 with 50% potassium carbonate solution and extracted with ethyl acetate. The organic phase is dried over sodium sulphate and concentrated by evaporation and the residue is dissolved in ether. By the addition of a solution of hydrogen chloride in ether there is obtained 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid methyl ester 2-[4-(2-thenoyl)-piperidino]-ethyl ester hydrochloride which melts at 140°-145°; it sinters from 120°.

reactant | 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid methyl ester 2-chloroethyl ester | 11 g | ClCCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C18H19ClN2O6
reactant | 4-(2-thenoyl)-piperidine | 6.4 g | C1(=CC=CS1)C(=O)C1CCNCC1 | C10H13NOS
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 8.8 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid methyl ester 2-[4-(2-thenoyl)-piperidino]-ethyl ester hydrochloride | Cl.C1(=CC=CS1)C(=O)C1CCN(CC1)CCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | InChI=1S/C28H31N3O7S.ClH/c1-17-23(27(33)37-3)25(20-6-4-7-21(16-20)31(35)36)24(18(2)29-17)28(34)38-14-13-30-11-9-19(10-12-30)26(32)22-8-5-15-39-22;/h4-8,15-16,19,25,29H,9-14H2,1-3H3;1H
